US08541417B2
To a suspension of 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one (7.20 mg, 0.033 mmol), N-ethyl-3-methyl-4-(piperazin-1-yl)benzamide dihydrochloride (13.40 mg, 0.042 mmol) and (cyanomethyl)trimethylphosphonium iodide (13.02 mg, 0.054 mmol) in Propiononitrile (Volume: 0.5 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.029 mL, 0.167 mmol) at 23° C. The reaction was stirred at 95° C. for 18 hr. The suspension was cooled to 23° C., filtered, rinsed with ACN (3×1 mL) and dried in vacuo to provide N-ethyl-3-methyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide (0.004 g, 0.01 mmol, 27.0% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10 (t, J=7.20 Hz, 3H) 2.26 (s, 3 H) 2.53-2.65 (m, 4 H) 2.84-2.99 (m, 4 H) 3.20-3.27 (m, 2 H) 3.65 (s, 2 H) 6.71-6.76 (m, 1H) 7.02 (d, J=8.34 Hz, 1 H) 7.07 (dd, J=3.54, 1.26 Hz, 1H) 7.57-7.60 (m, 1 H) 7.60-7.66 (m, 2 H) 7.67 (dd, J=3.03, 1.52 Hz, 1 H) 8.22 (t, J=5.56 Hz, 1 H) 8.36 (d, J=1.52 Hz, 1 H) 11.58 (s, 1 H). ESI-MS: m/z 445.4 (M+H)+. mp=254.8-258.5° C.

reactant | 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one | 0.033 mmol, 7.20 mg | OCC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C11H9N3O2
reactant | N-ethyl-3-methyl-4-(piperazin-1-yl)benzamide dihydrochloride | 0.042 mmol, 13.40 mg | Cl.Cl.C(C)NC(C1=CC(=C(C=C1)N1CCNCC1)C)=O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.054 mmol, 13.02 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.167 mmol, 0.029 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Propiononitrile | 0.5 mL | C(CC)#N | C3H5N
product | N-ethyl-3-methyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide | 0.01 mmol, 0.004 g, 27.0% yield | C(C)NC(C1=CC(=C(C=C1)N1CCN(CC1)CC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1)C)=O | C25H28N6O2
